US04730008
(i) 3-(4-iodophenyl)-2-propyn-1-ol
A mixture of 1,4-diiodobenzene (24.7 g), propargyl alcohol (1.68 g), BTPC (0.21 g) and CuI (28 mg) in diethylamine (180 ml) was stirred at room temperature under nitrogen for 18 h. The solvent was evaporated in vacuo at 35°, the residual solid taken up in MC (200 ml) and the solution washed with 2N hydrochloric acid (150 ml). The aqueous phase was extracted with further MC (75 ml), the organic layers combined, dried and purified by FCC eluting with EA-CX (1:6) and then EA-CX (1:3) to yield the title compound as a fawn crystalline solid (4.9 g) m.p. 101°-102°.

reactant | 1,4-diiodobenzene | 24.7 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | propargyl alcohol | 1.68 g | C(C#C)O | C3H4O
solvent | diethylamine | 180 ml | C(C)NCC | C4H11N
catalyst | CuI | 28 mg | [Cu]I
product | 3-(4-iodophenyl)-2-propyn-1-ol | 4.9 g | IC1=CC=C(C=C1)C#CCO | C9H7IO
